* physaudit T2p sp-noise vgs=1.275 vds=1.65
.include "/home/dpatni/circuit-repro/.env/pdks/gf180mcu/models/ngspice/design.ngspice"
.lib "/home/dpatni/circuit-repro/.env/pdks/gf180mcu/models/ngspice/sm141064.ngspice" typical
Vg gb 0 dc 1.275
Lg gb g 1
Vd db 0 dc 1.65
Ld db d 1
Vp1 p1 0 dc 0 ac 1 portnum 1 z0 50
Cp1 p1 g 1
Vp2 p2 0 dc 0 ac 0 portnum 2 z0 50
Cp2 p2 d 1
X1 d g 0 0 nmos_3p3 w=2e-05 l=0.28e-6 nf=10
.control
op
let id = -i(Vd)
print id
sp dec 20 1e8 2e10 1
set wr_singlescale
set wr_vecnames
let nfr = real(NF)
let nfminr = real(NFmin)
let rnr = real(Rn)
wrdata t2p_vg1.275_nfv.csv nfr nfminr rnr
.endc
.end
